US04172198
In a similar manner to that of Example 1-9), 2-oxo-3-oxazolidinecarbonyl chloride, which was prepared from 2-oxazolidinone (1.04 g), phosgene (0.018 mole) and triethylamine (3.0 g) in tetrahydrofuran was treated with a solution of 7-(D-2-phenylglycinamido)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (3.0 g) and bis(trimethylsilyl) acetamide (4.8 g) in methylene chloride (60 ml). The reaction mixture was worked up in a similar manner to that of Example 1--1) to give powder (1.92 g). This powder was dissolved into acetone and water was added thereto. The resultant mixture was concentrated, and a precipitated solid was collected by filtration to give powder (1.55 g) of 7-[D-2-(2-oxo-3-oxazolidinecarboxamido)-2-phenylacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, mp 165° to 170° C. (dec).

reactant | 2-oxazolidinone | 1.04 g | O1C(NCC1)=O | C3H5NO2
reactant | phosgene | 0.018 mole | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | bis(trimethylsilyl) acetamide | 4.8 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-oxo-3-oxazolidinecarbonyl chloride | O=C1OCCN1C(=O)Cl | C4H4ClNO3
